US09212187B2
Synthesis of 1-ethyl-3,3,5-trimethyl-7-[3-(2-oxo-3-phenyl-2H-quinolin-1-yl)propoxy]-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione
7-[3-(3-Bromo-2-oxo-2H-quinolin-1-yl)propoxy]-1-ethyl-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione(0.5 g), phenylboronic acid(0.12 g), tetrakis(triphenyl phosphine)palladium (0) (0.11 g), and potassium carbonate(0.39 g) were added to dioxane(5 ml). The mixture was heated under reflux for 2 hours under nitrogen atmosphere. The reaction mixture was cooled to room temperature. Water was added thereto, followed by extraction by ethyl acetate. The organic layer was dried over sodium sulfate, and condensed under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate: hexane=1:1→3:1). The purified product was condensed to dryness under reduced pressure, thereby obtaining the title compound(0.34 g) as a white amorphous solid.

reactant | 7-[3-(3-Bromo-2-oxo-2H-quinolin-1-yl)propoxy]-1-ethyl-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 0.5 g | BrC=1C(N(C2=CC=CC=C2C1)CCCOC1=CC2=C(N(C(C(C(N2C)=O)(C)C)=O)CC)C=C1)=O | C26H28BrN3O4
reactant | phenylboronic acid | 0.12 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium carbonate | 0.39 g | C([O-])([O-])=O.[K+].[K+]
reactant | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | Water | O | H2O
product | 1-ethyl-3,3,5-trimethyl-7-[3-(2-oxo-3-phenyl-2H-quinolin-1-yl)propoxy]-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 0.34 g | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)OCCCN2C(C(=CC1=CC=CC=C21)C2=CC=CC=C2)=O | C32H33N3O4
